US06489476B1
A solution of diethyl hydroxymethylphosphonate (1 mmole) in toluene was treated with sodium hydride (1.1 mmole) at 0° C., and after 15 min 2-bromomethyl-4,6-dimethylpyridine (1 mmole) was added. After 3 h the reaction mixture was subjected to extraction and chromatography to give 2-diethylphosphonomethyl-4,6-dimethylpyridine.

reactant | diethyl hydroxymethylphosphonate | 1 mmole | OCP(OCC)(OCC)=O | C5H13O4P
reactant | sodium hydride | 1.1 mmole | [H-].[Na+]
reactant | 2-bromomethyl-4,6-dimethylpyridine | 1 mmole | BrCC1=NC(=CC(=C1)C)C | C8H10BrN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-diethylphosphonomethyl-4,6-dimethylpyridine | C(C)OP(=O)(OCC)CC1=NC(=CC(=C1)C)C | C12H20NO3P
